US07030124B2
To a 500 mL three-necked flask was charged 5 g (24.3 mmol) of 4-formyl-N,N-diethylbenzamide (5.8 g @ 86% purity), 4.3 g (36.6 mmol) benzotriazole, 0.05 g (0.24 mmol) 4-toluenesulfonic acid, and 125 mL toluene. The mixture was heated to reflux removing water azeotropicly via a Dean-Stark trap. When water stopped accumulating in the trap, 5.4 g (24.3 mmol) of (2R,5S)-2,5-dimethyl-4-(3-fluorobenzyl)piperazine (IRIX Pharmaceuticals, Florence, S.C., U.S.A.) was added in 2–3 portions, removing water between additions. The reaction was refluxed until the theoretical amount of water was removed (2–3 h), followed by distillation of 100 mL of toluene from the reaction. The remaining solution was cooled below 60° C. Anhydrous tetrahydrofuran (150 mL) was added and the reaction was cooled below 10° C. Phenylmagnesium bromide (1 M in THF, 100 mL, 97.6 mmol) was charged while maintaining the temperature between 0 and 10° C. After stirring for two hours, the reaction was quenched by addition of 100 mL of saturated aqueous ammonium chloride. After phase separation, the aqueous layer was discarded. The organic layer was extracted with 3×75 mL of 1 N HCl. The aqueous layer was washed with 4×74 mL of methyl-tert.-butyl ether. The pH of the aqueous layer was raised to 8–10 with 115 mL 2 N sodium hydroxide. The aqueous layer was extracted with 3×75 mL of methyl-tert.-butyl ether. The organic layer was washed with brine, dried with Na2SO4 and evaporated under vacuum. The resulting solid was dissolved in 3 v/w of hot 2-propanol. Water was charged until a haze was observed. The solution was cooled with stirring to room temperature. The resulting solids were filtered and washed with 1/1 2-propanol-water (50 mL). The filter cake was dried at 40° C. to give 4.8 g (40%) of 4-((alpha-S)-alpha-((2S,5R)-2,5-dimethyl-4-(3-fluorobenzyl)-1-piperazinyl)benzyl)-N,N-diethylbenzamide as a white solid.

reactant | 4-formyl-N,N-diethylbenzamide | 24.3 mmol, 5 g | C(=O)C1=CC=C(C(=O)N(CC)CC)C=C1 | C12H15NO2
reactant | benzotriazole | 36.6 mmol, 4.3 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | (2R,5S)-2,5-dimethyl-4-(3-fluorobenzyl)piperazine | 24.3 mmol, 5.4 g | C[C@H]1NC[C@@H](N(C1)CC1=CC(=CC=C1)F)C | C13H19FN2
reactant | Phenylmagnesium bromide | 97.6 mmol, 1 M, 100 mL | C1(=CC=CC=C1)[Mg]Br
catalyst | 4-toluenesulfonic acid | 0.24 mmol, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | 4-((alpha-S)-alpha-((2S,5R)-2,5-dimethyl-4-(3-fluorobenzyl)-1-piperazinyl)benzyl)-N,N-diethylbenzamide | 4.8 g, 40% | C[C@@H]1N(C[C@H](N(C1)CC1=CC(=CC=C1)F)C)[C@@H](C1=CC=CC=C1)C1=CC=C(C(=O)N(CC)CC)C=C1 | C31H38FN3O
